US05719141
e) 3(R)-But-2-enyl-5(S)-[5-tert-butyl-diphenylsilyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran
4.6 ml of a 1M lithium bis-(trimethylsilyl)amide solution in tetrahydrofuran and 0.26 ml of crotyl bromide (89%, 5.7:1 E:Z) are added to 1.22 g of 5(S)-[5-tert-butyl-diphenylsilyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran analogously to Example 74d). Working up after 5 h and subsequent purification by means of FC over silica gel (mobile phase C) gives the title compound, of uniform (R) configuration on C-3, as a 2E/2Z isomer mixture which cannot be separated: (Rf (C)=0.62; FAB-MS: (M+H)+ =608).

reactant | lithium bis-(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 5(S)-[5-tert-butyl-diphenylsilyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran | 1.22 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(C[C@H](NC(=O)OC(C)(C)C)[C@@H]1CCC(O1)=O)(C)C | C32H47NO5Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | crotyl bromide | 0.26 ml | C(C=CC)Br | C4H7Br
product | 3(R)-But-2-enyl-5(S)-[5-tert-butyl-diphenylsilyloxy-1(S)-tert-butoxycarbonylamino-3,3-dimethyl-pentyl]-2-oxo-tetrahydrofuran | C(C=CC)[C@H]1C(O[C@@H](C1)[C@H](CC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)NC(=O)OC(C)(C)C)=O | C36H53NO5Si
